US04801707
4-(2-benzothiazolylthio)-morpholin
261 g of morpholine were placed in an apparatus according to Example 1. 166 g of dibenzothiazolyl disulphide were added to room temperature within 20 minutes with stirring and 240 g of 8.3% by weight caustic soda solution were added at the same time.

reactant | morpholine | 261 g | N1CCOCC1 | C4H9NO
reactant | dibenzothiazolyl disulphide | 166 g | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
reactant | caustic soda | [OH-].[Na+]
product | 4-(2-benzothiazolylthio)-morpholin | S1C(=NC2=C1C=CC=C2)SN2CCOCC2 | C11H12N2OS2
